US08026257B2
A solution of (±)-tert-butyl 4-((1-(5-chloro-3-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (406 mg, 0.632 mmol) and TBAF (4 mL, 4.00 mmol) (1M in THF) in THF (10 mL) was heated at reflux for 8 hours then cooled to ambient temperature and the solvent was evaporated. Purified on SiO2 column with 50% ethyl acetate/hexanes to obtain (±)-tert-butyl 4-((1-(5-chloro-3-cyano-1H-indol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (231 mg, 0.451 mmol, 71.4% yield) as a clear foam. 1H-NMR (CDCl3, 400 MHz) δ 8.11 (bs, 1H), 7.57 (d, J=1.9 Hz, 1H), 7.27 (m, 2H), 7.11 (m, 2H), 7.10 (s, 1H), 4.54 (q, J=6.5 Hz, 1H), 3.7 (m, 2H), 3.43(d, J=8.8 Hz, 1H), 3.20 (d, J=8.6 Hz, 1H), 3.10 (t, J=7.5 Hz, 1H), 2.97 (t, J=10.1 Hz, 1H), 2.38 (m, 2H), 1.80-2.00 (m, 2H), 1.64 (m, 1H), 1.40 (s, 3H). LC/MS (HPLC method 4): tR=4.02 min, 534.13(MNa)+.

reactant | (±)-tert-butyl 4-((1-(5-chloro-3-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.632 mmol, 406 mg | ClC=1C=C2C(=CN(C2=C(C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C)C#N | C34H45ClFN3O4Si
reactant | TBAF | 4.00 mmol, 1M, 4 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (±)-tert-butyl 4-((1-(5-chloro-3-cyano-1H-indol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.451 mmol, 231 mg, 71.4% yield | ClC=1C=C2C(=CNC2=C(C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)C#N | C28H31ClFN3O3
